US04738986
2-(2-Fluorobiphenyl-4-yl)propionic acid chloride (prepared in the normal manner from 1.75 g of acid, ca 1 ml of oxalyl chloride, toluene, and 3 drops of N,N-(dimethylformamide) was dissolved in tetrahydrofuran (30 ml) and added over 5-10 minutes to a solution of N-Methylhydroxylamine hydrochloride (ca 2 g) in water (5 ml) containing triethylamine (5 ml) at 0°. Solvent was evaporated, and neutral material was isolated with ethyl acetate. Recrystallization from ether-light petroleum (b.pt. 40°-60°) afforded 2-(2-fluorobiphenyl-4-yl)-N-methylpropanohydroxamic acid (1.25 g), m.pt. 125°-126° C.

reactant | 2-(2-Fluorobiphenyl-4-yl)propionic acid chloride | FC1=C(C=CC(=C1)C(C(=O)Cl)C)C1=CC=CC=C1 | C15H12ClFO
reactant | oxalyl chloride | ca 1 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | toluene | C1(=CC=CC=C1)C | C7H8
reactant | N-Methylhydroxylamine hydrochloride | ca 2 g | Cl.CNO
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
solvent | water | 5 ml | O | H2O
solvent | triethylamine | 5 ml | C(C)N(CC)CC | C6H15N
product | 2-(2-fluorobiphenyl-4-yl)-N-methylpropanohydroxamic acid | 1.25 g | FC1=C(C=CC(=C1)C(C(=O)N(O)C)C)C1=CC=CC=C1 | C16H16FNO2
